US07759376B2
Step 1. Preparation of 3-chloro-4′-nitrobiphenyl-4-carboxylic Acid
Methyl 3-chloro-4′-nitrobiphenyl-4-carboxylate (0.50 g, 1.4 mmol) was suspended in THF (6 mL), MeOH (6 mL) and water (3 mL), and NaOH (0.27 g, 6.9 mmol) was added. The reaction mixture was heated at 50° C. for 3 h. Upon cooling to rt, the reaction mixture was concentrated under reduced pressure and acidified with 2N HCl. The resulting solid was collected by filtration and dried in a 40° C. vacuum oven, yielding 0.315 g (83%) of the title compound. 1H NMR (400 MHz, DMSO-d6) δ 7.81-8.10 (m, 5H), 8.21-8.38 (m, 2H).

reactant | Methyl 3-chloro-4′-nitrobiphenyl-4-carboxylate | 1.4 mmol, 0.50 g | ClC=1C=C(C=CC1C(=O)OC)C1=CC=C(C=C1)[N+](=O)[O-] | C14H10ClNO4
reactant | MeOH | 6 mL | CO | CH4O
reactant | water | 3 mL | O | H2O
reactant | NaOH | 6.9 mmol, 0.27 g | [OH-].[Na+]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 3-chloro-4′-nitrobiphenyl-4-carboxylic Acid | 0.315 g, 83% | ClC=1C=C(C=CC1C(=O)O)C1=CC=C(C=C1)[N+](=O)[O-] | C13H8ClNO4
